US05710139
A mixture of 6,7-dichloro-2-bromo-3-bromomethylquinoline (0.74 g, 2 mmol) and trimethylphosphite (5 ml) was heated at 80°-90° C. for 2-3h. Then the excess trimethylphosphite was removed in vacuo at 70°-80° C. and the oily residue was made crystalline by treating with hexane-ethyl ether (1:1). The crystalls were collected, washed with toluene and dried in vacuo to give 0.65 g of 6,7-dichloro-3-dimethylphosphonomethyl-2-bromoquinoline.

reactant | 6,7-dichloro-2-bromo-3-bromomethylquinoline | 2 mmol, 0.74 g | ClC=1C=C2C=C(C(=NC2=CC1Cl)Br)CBr | C10H5Br2Cl2N
reactant | trimethylphosphite | 5 ml | COP(OC)OC | C3H9O3P
product | 6,7-dichloro-3-dimethylphosphonomethyl-2-bromoquinoline | 0.65 g | ClC=1C=C2C=C(C(=NC2=CC1Cl)Br)CP(=O)(OC)OC | C12H11BrCl2NO3P
